US06096771
(a) 3-(2-(N-t-Butoxycarbonylamino)ethoxy)-4-cyano-1,2-benzisoxazole
To a solution of 3-(2-(N-t-butoxycarbonylamino)ethoxy)-4-carbamoyl-1,2-benzisoxazole (0.15 g) in diethylformamide (1.5 ml) was added phosphorus oxychloride (0.09 g) with stirring at 5° C., and the mixture was then stirred at the same temperature for 15 minutes. The reaction mixture was poured into ice water (20 ml), extracted with ethyl acetate (twice each with 20 ml) and the combined extracts were dried over anhydrous magnesium sulphate. After filtration, the solvent was evaporated under reduced pressure and the residue was purified by silica gel column chromatography with cyclohexane/ethyl acetate (4/1) as an eluent, to give the title compound (0.13 g, 93%) as a colorless powder.

reactant | 3-(2-(N-t-butoxycarbonylamino)ethoxy)-4-carbamoyl-1,2-benzisoxazole | 0.15 g | C(C)(C)(C)OC(=O)NCCOC1=NOC2=C1C(=CC=C2)C(N)=O | C15H19N3O5
reactant | phosphorus oxychloride | 0.09 g | P(=O)(Cl)(Cl)Cl | Cl3OP
solvent | diethylformamide | 1.5 ml | C(C)N(C=O)CC | C5H11NO
product | 3-(2-(N-t-Butoxycarbonylamino)ethoxy)-4-cyano-1,2-benzisoxazole | 0.13 g, 93% | C(C)(C)(C)OC(=O)NCCOC1=NOC2=C1C(=CC=C2)C#N | C15H17N3O4
